Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Ragweed / morphine / Percocet
 
Attending: ___.
 
Chief Complaint:
GI lymphadenopathy 
 
Major Surgical or Invasive Procedure:
laparoscopic omental biopsy and incisional hernia repair

 
History of Present Illness:
___ with complicated medical history, sarcoidosis on high-dose
steroid therapy presenting for re-evaluation for biopsy. Since
his last visit here, the patient underwent an emergent ___ patch repair for a perforated duodenal ulcer in ___
of this year. He has since been feeling progressively more 
tired,
and was recently taken off of Remicaide since his mesenteric
lymaphdenopathy was worsening despite alleviation of his
pulmonary symptoms. He is being followed closely by 
Rheumatology,
and is now on high-dose prednisone, with recent increase to 60mg
once daily. He recently underwent a CT A/P which demonstrated 
new
liver lesions and increasing mesenteric and retroperitoneal
lymphadenopathy. A CT-guided FNA was unfortunately
non-diagnostic.

He has also developed what sounds like two episodes of 
pneumonia,
both community-acquired, and was treated with antibiotics. His
most recent episode was less severe and did not require
hospitalization.

He otherwise has diminished, but stable appetite with associated
unintentional weight loss that has not changed dramatically. He
denies fevers or chills. He overall feels 'okay.' He denies 
chest
pain, shortness of breath or abdominal pain. He denies any
urinary symptoms and has been moving his bowels well without
hematochezia or melena.

 
Past Medical History:
1. Sarcoidosis, dx skin bx: intestinal & pulmonary involvement, 
recurrent iritis
2. Inflammatory bowel disease; s/p ileo-hemicolectomy ___, 
path +sarcoid   
3. GERD.  
4. Hyperlipidemia
5  OSA on CPAP
6. Asthma.  
7. Osteoarthritis.  
8. Fractured pelvis, ___ s/p fall.
9. BPH, status post prostatectomy.  
10. Depression.  
11. History of ITP, status post splenectomy in ___.   
12. Hard of hearing and wears hearing aid.
  
Past Surgical History:  
1. s/p Ex Lap, R hemicolectomy, ileocecal colostomy for 
evaluation ileocecal mass.  
2. Arthroscopic surgery of both knees.  
3. Shoulder surgery.  
4. Hernia repair.  

 
Social History:
___
Family History:
Mother: ___, cardiac disease.  
Father: diverticulosis, peptic ulcer disease, died at age ___.  
Maternal grandfather: ___ cancer.  
Two siblings, living and healthy.  

 
Physical Exam:
Preoperative Physical Exam:
Vital Signs sheet entries for ___:
BP: 129/59. Heart Rate: 77. Temperature: 98.1. O2 Saturation%:
99.
GEN: chronically ill-appearing male, but in no acute distress.
Appears malnourished.
HEENT: No scleral icterus, mucus membranes moist. Moon facies.
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: well-healed left subcostal incision consistent with prior
splenectomy. Midline incision with large incisional hernia;
defect approximates 2.5-3cm, easily reducible. Otherwise
non-distended, non-tender
   
Discharge Physical Exam:
98.0  127/68  66  18   96%RA
Gen: no acute distress, alert, responsive
Pulm: clear to auscultation bilaterally
CV: regular rate and rhythm
Abd: appropriately tender to palpation, non-distended, soft, 
incision sites clean, dry, and intact
Ext: no c/c/e
 
Pertinent Results:
None
 
Brief Hospital Course:
___ is a ___ year old male GI sarcoidosis on 
prednisone with increasing lymphadenopathy who was admitted on 
___ under the general surgery service for biopsy and 
incisional hernia repair. He was taken to the operating room and 
underwent an exploratory laparoscopy, lysis of adhesions, 
partial omentectomy for biopsy, and incisional hernia repair 
with mesh.  Please see operative report for details of this 
procedure. He tolerated the procedure well and was extubated 
upon completion. He was subsequently taken to the PACU for 
recovery.

He was transferred to the surgical floor hemodynamically stable. 
His vital signs were routinely monitored and he remained 
afebrile and hemodynamically stable. He was initially given IV 
fluids postoperatively, which were discontinued when he was 
tolerating PO's. His diet was advanced to regular, which he 
tolerated without abdominal pain, nausea, or vomiting. He was 
voiding adequate amounts of urine without difficulty. He was 
encouraged to mobilize out of bed and ambulate as tolerated, 
which he was able to do independently. His pain level was 
routinely assessed and well controlled at discharge with an oral 
regimen as needed.
On ___, he was discharged home to follow up in surgery 
clinic with Dr. ___ in 2 weeks.

 
Medications on Admission:
ALBUTEROL SULFATE [PROAIR HFA] - ProAir HFA 90 mcg/actuation
aerosol inhaler. ___ puffs inhaled q ___ hrs prn
AZATHIOPRINE - azathioprine 50 mg tablet. 3 tablet(s) by mouth
daily
CICLOPIROX [LOPROX] - Loprox 0.77 % topical gel. apply topicall
twice a day -  (Prescribed by Other Provider: Dr. ___
(Not Taking as Prescribed)
CLOBETASOL - clobetasol 0.05 % topical cream. apply to affected
areas bid prn (rinse fingertips)
FEXOFENADINE [ALLEGRA] - Allegra 180 mg tablet. 1 tablet(s) by
mouth once a day as needed for seasonal allergies -  (Prescribed
by Other Provider)
FLUOXETINE - fluoxetine 40 mg capsule. TAKE 1 CAPSULE ONCE DAILY
FLUTICASONE [FLOVENT HFA] - Flovent HFA 110 mcg/actuation 
aerosol
inhaler. 2 puffs inhaled bid - rinse mouth
INFLIXIMAB [REMICADE] - Remicade 100 mg intravenous solution. 
350
mg IV Week 0, 2, 6 Wt 68 kg. -  (Not Taking as Prescribed)
METOPROLOL SUCCINATE - metoprolol succinate ER 25 mg
tablet,extended release 24 hr. 1 tablet extended release 24 
hr(s)
by mouth daily
NYSTATIN - nystatin 100,000 unit/mL oral suspension. 5 ml by
mouth 4 times a day
OMEPRAZOLE - omeprazole 40 mg capsule,delayed release. 1
capsule,delayed ___ by mouth twice a day
ONDANSETRON - ondansetron 4 mg disintegrating tablet. ___
tablet,disintegrating(s) by mouth tid with oxycodone
OXYCODONE - oxycodone 5 mg tablet. ___ tablet(s) by mouth tid 
prn
-  (Not Taking as Prescribed)
PREDNISONE - prednisone 40 mg tablet. 1 tablet(s) by mouth daily
-  (Not Taking as Prescribed)
SIMVASTATIN - simvastatin 40 mg tablet. TAKE ONE-HALF (___)
TABLET DAILY
TIOTROPIUM BROMIDE [SPIRIVA WITH HANDIHALER] - Dosage uncertain 
-
(Prescribed by Other Provider)
TRIAMCINOLONE ACETONIDE - Dosage uncertain -  (Prescribed by
Other Provider: Dr. ___ (Not Taking as Prescribed)
URSODIOL - ursodiol 250 mg tablet. 1 (One) tablet(s) by mouth
three times a day Total of 750mg per day -  (Not Taking as
Prescribed)

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Azathioprine 50 mg PO DAILY 
3. Fluoxetine 40 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. HYDROmorphone (Dilaudid) 2 mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every 3 hours Disp 
#*30 Tablet Refills:*0
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. PredniSONE 40 mg PO DAILY 
9. Simvastatin 20 mg PO DAILY 
10. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI lymphadenopathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please keep clear bandage with gauze in place until tomorrow. 
Please keep steri-strips in place until 2 weeks, or they follow 
off on their own.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery. 

 
Followup Instructions:
___